US08835472B2
(4-Ethynylphenyl)-morpholin-4-yl-methanone
To 3.50 g (23.9 mmol) 4-ethynylphenyl benzoic acid in 20 mL THF are added 3.88 g (23.9 mmol) CDI. The mixture is stirred at 60° C. for 30 min and then charged with 2.11 mL (23.9 mmol) morpholine. The complete mixture is stirred under reflux for 5 h and at r.t. for 24 h. The solvent is removed in vacuo and the residue is purified by column chromatography (silica gel, EtOAc 100%).

reactant | 4-ethynylphenyl benzoic acid | 23.9 mmol, 3.50 g | C(#C)C1=CC=C(C=C1)C1=C(C(=O)O)C=CC=C1 | C15H10O2
reactant | CDI | 23.9 mmol, 3.88 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | morpholine | 23.9 mmol, 2.11 mL | N1CCOCC1 | C4H9NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (4-Ethynylphenyl)-morpholin-4-yl-methanone | C(#C)C1=CC=C(C=C1)C(=O)N1CCOCC1 | C13H13NO2
